US03987199
3.0 G. of 3,5-dibromobenzenesulfonylchloride is added to a solution of 17.7 g. of isopropylamine in 25 ml. of water at room temperature. A complete solution results which is stirred for two hours and poured onto 250 ml. of water. The precipitate is filtered, washed with water, and dried affording 3,5-dibromo-N-isopropylbenzenesulfonamide, m.p. 105° to 107° C.

reactant | 3,5-dibromobenzenesulfonylchloride | BrC=1C=C(C=C(C1)Br)S(=O)(=O)Cl | C6H3Br2ClO2S
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 3,5-dibromo-N-isopropylbenzenesulfonamide | BrC=1C=C(C=C(C1)Br)S(=O)(=O)NC(C)C | C9H11Br2NO2S
